US09145354B2
To (1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propan-1-amine (0.1 g, 0.34 mmol) in a microwave tube was added ethanol (0.4 ml) water (0.4 ml), acrylamide (0.025 g, 0.35 mmol) and MnCl2 (0.056 g, 0.28 mmol) heated 100° C., 200 W for a total of 1 hour. The reaction was diluted with MeOH and filtered and filtrate evaporated then purified by Prep HPLC to give 3-{[(1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propyl]amino}-propanamide (0.047 g).

reactant | (1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propan-1-amine | 0.34 mmol, 0.1 g | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)N)F | C16H15ClFNO
reactant | ethanol | 0.4 ml | C(C)O | C2H6O
reactant | acrylamide | 0.35 mmol, 0.025 g | C(C=C)(=O)N | C3H5NO
solvent | MeOH | CO | CH4O
product | 3-{[(1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propyl]amino}-propanamide | 0.047 g | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)NCCC(=O)N)F | C19H20ClFN2O2
